US05965730
To a solution of (2S)-1-acetoxy-3-(3,4-dimethoxyphenyl)-2-{2-[4-(3-pyridyl)phthalazin-1(2H)-on-2-yl]isonicotinoylamino}propane (150 mg) in acetonitrile (5 ml) is added phosphorus oxychloride (0.29 ml), and the mixture is heated under reflux overnight. The reaction mixture is cooled to room temperature, and neutralized with an aqueous sodium hydrogen carbonate solution. The mixture is extracted with chloroform, and the extract is washed, dried, and concentrated. The residue is crystallized from ethyl acetate to give (3S)-4-(3-acetoxymethyl-3,4-dihydro-6,7-dimethoxyisoquinolin-1-yl)-2-[4-(3-pyridyl)phthalazin-1(2H)-on-2-yl]pyridine (136 mg), as yellow crystals.

reactant | (2S)-1-acetoxy-3-(3,4-dimethoxyphenyl)-2-{2-[4-(3-pyridyl)phthalazin-1(2H)-on-2-yl]isonicotinoylamino}propane | 150 mg | C(C)(=O)OC[C@H](CC1=CC(=C(C=C1)OC)OC)NC(C1=CC(=NC=C1)N1C(C2=CC=CC=C2C(=N1)C=1C=NC=CC1)=O)=O | C32H29N5O6
reactant | phosphorus oxychloride | 0.29 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | (3S)-4-(3-acetoxymethyl-3,4-dihydro-6,7-dimethoxyisoquinolin-1-yl)-2-[4-(3-pyridyl)phthalazin-1(2H)-on-2-yl]pyridine | 136 mg | C(C)(=O)OC[C@H]1N=C(C2=CC(=C(C=C2C1)OC)OC)C1=CC(=NC=C1)N1C(C2=CC=CC=C2C(=N1)C=1C=NC=CC1)=O | C32H27N5O5
